US07598423B2
Synthesis of 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenylsulfanylmethyl)-benzyl]-benzoic acid
Dissolve 3-[3-(4-Acetyl-3-hydroxy-2-propyl-phenylsulfanylmethyl)-benzyl]-benzoic acid methyl ester (238 mg, 0.53 mmol) in tetrahydrofuran (5 ml) and methanol (4 ml). Add lithium hydroxide monohydrate (89 mg, 2.1 mmol) and water (1.5 ml), then stir at room temperature for 18 hours. Cool at 0° C. and adjust to pH 3 with 1 N hydrochloric acid. Dilute with water (35 ml) and extract with ethyl acetate (2×20 ml). Combine the organic extracts, dry over sodium sulfate, filter and concentrate to a solid. Purify the crude product via reverse phase HPLC using a gradient of 90:10 to 20:80 (water/0.1% TFA):acetonitrile as eluent to give the title compound (196 mg, 85%).

reactant | 3-[3-(4-Acetyl-3-hydroxy-2-propyl-phenylsulfanylmethyl)-benzyl]-benzoic acid methyl ester | 0.53 mmol, 238 mg | COC(C1=CC(=CC=C1)CC1=CC(=CC=C1)CSC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C27H28O4S
reactant | lithium hydroxide monohydrate | 2.1 mmol, 89 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 35 ml | O | H2O
solvent | water | 1.5 ml | O | H2O
product | 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenylsulfanylmethyl)-benzyl]-benzoic acid | 196 mg, 85% | C(C)(=O)C1=C(C(=C(C=C1)SCC=1C=C(CC=2C=C(C(=O)O)C=CC2)C=CC1)CCC)O | C26H26O4S
